### PR TITLE
[gauss2] golf part of EisensteinBase.lean

### PR DESCRIPTION
**Pull request by b-mehta**

### CODE REVIEW

File: SpherePacking/ModularForms/EisensteinBase.lean [hunk 1]
```diff
@@ -853,7 +846,9 @@ lemma E₂_isZeroAtImInfty_sub_one : IsZeroAtImInfty (fun z : ℍ => E₂ z - 1)
   have hT_eq :
       (∑' n : ℕ+, (n : ℂ) * cexp (2 * π * Complex.I * n * z) /
           (1 - cexp (2 * π * Complex.I * n * z))) = S := by
-    congr 1; ext n; simp [show cexp (2 * π * Complex.I * n * z) = q ^ (n : ℕ) from exp_aux z ↑n]
+    congr 1; ext n
```
Comment (b-mehta) [inline SpherePacking/ModularForms/EisensteinBase.lean]: this is bad, and same on line 822

**Comment by CBirkbeck** [comment]
Is this all just golfing?

File: SpherePacking/ModularForms/EisensteinBase.lean [hunk 2]
```diff
@@ -374,19 +334,16 @@ lemma Ek_q_exp (k : ℕ) (hk : 3 ≤ (k : ℤ)) (hk2 : Even k) :
       simp only [c, PNat.ne_zero, reduceIte, one_div, neg_mul]
       refine (add_left_cancel_iff).2 ?_
       rw [← tsum_mul_left]
-      refine tsum_congr ?_
-      intro b
+      refine tsum_congr fun b => ?_
```
Comment (CBirkbeck) [inline SpherePacking/ModularForms/EisensteinBase.lean]: if we are cleaning maybe we may as well change => to ↦

Comment (CBirkbeck) [reply SpherePacking/ModularForms/EisensteinBase.lean]: other than this, feel free to merge it

File: SpherePacking/ModularForms/EisensteinBase.lean [hunk 3]
```diff
@@ -127,42 +126,34 @@ theorem cuspfunc_lim_coef {k : ℤ} {F : Type u_1} [inst : FunLike F ℍ ℂ] (n
...
-      exact False.elim (hm (by simp))
+    simpa [hqτ] using eq_cuspFunction f τ (by simp) hn0
+  simpa [hqτ, hcusp] using hf τ
+
+theorem summable_zero_pow {G} [NormedField G] (f : ℕ → G) : Summable (fun m ↦ f m * 0 ^ m) :=
+  summable_of_finite_support ((Set.finite_singleton 0).subset fun m hm ↦by cases m <;> simp_all)
 
 lemma tsum_zero_pow (f : ℕ → ℂ) : (∑' m, f m * 0 ^ m) = f 0 := by
-  simpa using (tsum_eq_single (f := fun m => f m * 0 ^ m) 0 fun m hm => by
+  simpa using (tsum_eq_single (f := fun m ↦f m * 0 ^ m) 0 fun m hm ↦by
```
Comment (b-mehta) [inline SpherePacking/ModularForms/EisensteinBase.lean]:
```suggestion
  simpa using (tsum_eq_single (f := fun m ↦ f m * 0 ^ m) 0 fun m hm ↦ by
```
there should be a space after ↦ in each case

**Comment by b-mehta** [comment]
> Is this all just golfing?

Yeah, this was just me telling claude to shorten the proofs without introducing antipatterns

File: SpherePacking/ModularForms/EisensteinBase.lean [hunk 4]
```diff
@@ -127,42 +126,34 @@ theorem cuspfunc_lim_coef {k : ℤ} {F : Type u_1} [inst : FunLike F ℍ ℂ] (n
...
 
 private lemma tendsto_tsum_mul_pow_nhdsWithin_ne_zero_half (c : ℕ → ℂ)
     (hc : Summable fun m : ℕ ↦ ‖c m‖ * (1 / 2 : ℝ) ^ m) :
     Tendsto (fun q : ℂ ↦ ∑' m : ℕ, c m * q ^ m) (𝓝[≠] (0 : ℂ)) (𝓝 (c 0)) := by
   -- As `q → 0` (with `q ≠ 0`), the power series tends to its constant term.
   have hq : {q : ℂ | ‖q‖ < (1 / 2 : ℝ)} ∈ (𝓝[≠] (0 : ℂ)) := by
-    refine mem_nhdsWithin_of_mem_nhds ?_
-    simpa [Metric.ball, dist_eq_norm] using Metric.ball_mem_nhds (0 : ℂ) (by norm_num)
+    exact mem_nhdsWithin_of_mem_nhds
+      (by simpa [Metric.ball, dist_eq_norm] using Metric.ball_mem_nhds (0 : ℂ) (by norm_num))
```
Comment (b-mehta) [inline SpherePacking/ModularForms/EisensteinBase.lean]: changes like this aren't really an improvement, please revert.

File: SpherePacking/ModularForms/EisensteinBase.lean [hunk 5]
```diff
@@ -910,84 +819,71 @@ public lemma E₂_isBoundedAtImInfty : IsBoundedAtImInfty E₂ := by
...
-      E₂ z - 1 = (1 - 24 * S) - 1 := by simp [E₂_eq, hT_eq]
-      _ = -24 * S := by ring
-  -- take norms and bound
-  calc
-    ‖E₂ z - 1‖ = ‖-24 * S‖ := by simp [hE₂_sub_one]
-    _ = 24 * ‖S‖ := by simp
+    have := E₂_eq z
+    rw [hT_eq] at this
+    rw [this]
+    ring
```
Comment (b-mehta) [inline SpherePacking/ModularForms/EisensteinBase.lean]: does `grind [E₂_eq z, hT_eq]` do this proof?

File: SpherePacking/ModularForms/EisensteinBase.lean [hunk 6]
```diff
@@ -330,63 +304,46 @@ lemma qexpsummable (k : ℕ) (hk : 3 ≤ (k : ℤ)) (z : ℍ) :
...
-              simp
-      _ = (σ (k - 1) (m + 1) : ℝ) * ‖cexp (2 * ↑π * Complex.I * ↑z) ^ (m + 1)‖ := by
-            simp only [Complex.norm_natCast]
-      _ ≤ (↑(m + 1) : ℝ) ^ k * ‖cexp (2 * ↑π * Complex.I * ↑z) ^ (m + 1)‖ := by
-            exact mul_le_mul_of_nonneg_right hsigma (norm_nonneg _)
+    have hk1 : 1 ≤ k := by omega
+    simp only [norm_mul, Complex.norm_natCast]
+    exact mul_le_mul_of_nonneg_right (by exact_mod_cast
+      (sigma_bound (k := k - 1) (n := m + 1)).trans (by rw [Nat.sub_add_cancel hk1]))
+      (norm_nonneg _)
```
Comment (dwrensha) [inline SpherePacking/ModularForms/EisensteinBase.lean]:
```suggestion
    refine mul_le_mul_of_nonneg_right ?_ (norm_nonneg _)
    exact_mod_cast
      (sigma_bound (k := k - 1) (n := m + 1)).trans (by rw [Nat.sub_add_cancel hk1])
```

File: SpherePacking/ModularForms/EisensteinBase.lean [hunk 7]
```diff
@@ -488,39 +445,23 @@ public theorem E4E6_coeff_zero_eq_zero :
...
-      (⇑((((DirectSum.of (ModularForm Γ(1)) 4) E₄ ^ 3) 12 -
-              ((DirectSum.of (ModularForm Γ(1)) 6) E₆ ^ 2) 12)) : ℍ → ℂ) =
-        (⇑(((DirectSum.of (ModularForm Γ(1)) 4) E₄ ^ 3) 12) -
-          ⇑(((DirectSum.of (ModularForm Γ(1)) 6) E₆ ^ 2) 12)) := rfl
-  simp_rw [hsub]
+  rw [← Nat.cast_one (R := ℝ), ← qExpansion_smul2, Nat.cast_one (R := ℝ)]
+  simp_rw [show (⇑((((DirectSum.of (ModularForm Γ(1)) 4) E₄ ^ 3) 12 -
+    ((DirectSum.of (ModularForm Γ(1)) 6) E₆ ^ 2) 12)) : ℍ → ℂ) =
+    (⇑(((DirectSum.of (ModularForm Γ(1)) 4) E₄ ^ 3) 12) -
+      ⇑(((DirectSum.of (ModularForm Γ(1)) 6) E₆ ^ 2) 12)) from rfl]
```
Comment (dwrensha) [inline SpherePacking/ModularForms/EisensteinBase.lean]:
```suggestion
  rw [coe_sub]
```

File: SpherePacking/ModularForms/EisensteinBase.lean [hunk 8]
```diff
@@ -488,39 +445,23 @@ public theorem E4E6_coeff_zero_eq_zero :
...
-  simp_rw [E4_q_exp_zero, E6_q_exp_zero]
-  rw [PowerSeries.coeff_mul]
+    ext z; rw [pow_two, @DirectSum.of_mul_of]; rfl
+  rw [hds, hd6, ← Nat.cast_one (R := ℝ), qExpansion_mul_coeff, qExpansion_mul_coeff,
+    qExpansion_mul_coeff, PowerSeries.coeff_mul, PowerSeries.coeff_mul]
   simp only [Finset.antidiagonal_zero, Prod.mk_zero_zero, Finset.sum_singleton, Prod.fst_zero,
-    Prod.snd_zero, one_mul, mul_one]
-  rw [E4_q_exp_zero]
+    Prod.snd_zero, Nat.cast_one, E4_q_exp_zero, E6_q_exp_zero, PowerSeries.coeff_mul,
+    mul_one]
```
Comment (dwrensha) [inline SpherePacking/ModularForms/EisensteinBase.lean:461]: Might as well make this `simp` instead of `simp only`, so that the next line is not needed.

File: SpherePacking/ModularForms/EisensteinBase.lean [hunk 9]
```diff
@@ -749,42 +675,28 @@ theorem E_even_imag_axis_real (k : ℕ) (hk : (3 : ℤ) ≤ k) (hk2 : Even k) :
...
-      simp only [PNat.val_ofNat, Nat.cast_one, mul_one] at this
-      exact summable_norm_iff.mpr this
+    refine .of_norm (.of_nonneg_of_le (fun n ↦ norm_nonneg _) (fun n ↦ ?_)
+      (summable_norm_iff.mpr (by have := a33 k 1 z; simpa using this)))
+    simp only [norm_mul, Complex.norm_natCast]
+    exact mul_le_mul_of_nonneg_right (by
+      rw [Complex.norm_pow, Complex.norm_natCast]
+      have := sigma_bound (k - 1) n
+      rw [Nat.sub_add_cancel (by omega : 1 ≤ k)] at this
+      exact_mod_cast this) (norm_nonneg _)
```
Comment (dwrensha) [inline SpherePacking/ModularForms/EisensteinBase.lean]:
```suggestion
    refine mul_le_mul_of_nonneg_right ?_ (norm_nonneg _)
    rw [Complex.norm_pow, Complex.norm_natCast]
    have := sigma_bound (k - 1) n
    rw [Nat.sub_add_cancel (by omega : 1 ≤ k)] at this
    exact_mod_cast this
```

**Review by dwrensha — APPROVED** [review]
